US06642389B2
d] [rac]-2-Ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-propionic acid ethyl ester
250 mg of Pd/C were added under argon to 850 mg of 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-acrylic acid ethyl ester (1.84 mmol) dissolved in 10 ml of tetrahydrofuran. The atmosphere was then replaced with H2, and the suspension was rapidly stirred at room temperature under the atmosphere of H2 for four hours. Filtration over dicalite and evaporation of the solvents left 850 mg (99.6%) of [rac]-2-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-propionic acid ethyl ester as brown oil.

reactant | 2Z-ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-acrylic acid ethyl ester | 1.84 mmol, 850 mg | C(C)OC(/C(=C/C1=C2CCCC2=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)/OCC)=O | C28H31NO5
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | [rac]-2-Ethoxy-3-{7-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-indan-4-yl}-propionic acid ethyl ester | C(C)OC(C(CC1=C2CCCC2=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OCC)=O | C28H33NO5
